US08349824B2
A mixture of tert-butyl 2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate (340 mg, 1.12 mmol) and hydrochloric acid (5N in ether, 25 ml, 125 mmol) in dichloromethane (10 ml) was stirred for 20 hours at 25° C. The solvent was evaporated, the residue was triturated with sat. sodium hydrogencarbonate solution, the solid was filtered off, washed with water several times and dried affording 2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylamine (194 mg, 85.2%) as a light yellow solid. mp: 221-225° C., MS: m/z=204.4 (M+H+)

reactant | tert-butyl 2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate | 1.12 mmol, 340 mg | N1(CCCC1)C1=NN2C(C=C(C=C2)NC(OC(C)(C)C)=O)=N1 | C15H21N5O2
reactant | hydrochloric acid | 125 mmol, 5N, 25 ml | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylamine | 194 mg, 85.2% | N1(CCCC1)C1=NN2C(C=C(C=C2)N)=N1 | C10H13N5
